US06689733B1
4-(N-Isopropyl-N-methylamino)salicylaldehyde
11 g (0.118 mol) of phosphorus oxychloride are cautiously added to 33 ml of dry DMF at −5° C. within a period of 5 minutes, during the course of which the temperature of the reaction solution should not exceed 10° C. Subsequently, a solution of 19.4 g (0.1176 mol) of 3-(N-isopropyl-N-methylamino)phenol in 25 ml of dry DMF is added thereto within a period of 10 minutes, during the course of which the temperature of the reaction solution should not exceed 20° C. When the addition is complete, the reaction solution is heated for 2 hours at 90° C. and then immediately poured onto 150 g of ice. The crude mixture is extracted three times with 100 ml of chloroform. The combined organic phases are concentrated under a high vacuum. The oily residue is purified by column chromatography on silica gel (eluant n-hexane/chloroform 95:5). Yield: 5.8 g (26%), colourless liquid.

reactant | phosphorus oxychloride | 0.118 mol, 11 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(N-isopropyl-N-methylamino)phenol | 0.1176 mol, 19.4 g | C(C)(C)N(C)C=1C=C(C=CC1)O | C10H15NO
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | DMF | 33 ml | CN(C)C=O | C3H7NO
product | 4-(N-Isopropyl-N-methylamino)salicylaldehyde | C(C)(C)N(C)C=1C=C(C(C=O)=CC1)O | C11H15NO2
